US09388189B2
a) 4-Chloro-5-((5-fluoro-2-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (200 mg, 0.49 mmol), 5-fluoro-2-methoxybenzenethiol (96 μl, 0.73 mmol), copper(I) iodide (139 mg, 0.73 mmol), potassium carbonate (135 mg, 0.98 mmol) and 2 ml dimethylformamide as solvent according to Preparation 86 but heating the reaction mixture at 50° C. overnight. The residue was purified using SP1® Purification System (0% to 15%, hexane-ethyl acetate) to give 56 mg (26% yield) of the title compound.

reactant | 4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.49 mmol, 200 mg | ClC=1C2=C(N=CN1)N(C=C2I)COCC[Si](C)(C)C | C12H17ClIN3OSi
reactant | 5-fluoro-2-methoxybenzenethiol | 0.73 mmol, 96 μl | FC=1C=CC(=C(C1)S)OC | C7H7FOS
reactant | potassium carbonate | 0.98 mmol, 135 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.73 mmol, 139 mg | [Cu]I
product | 4-Chloro-5-((5-fluoro-2-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 56 mg, 26% yield | ClC=1C2=C(N=CN1)N(C=C2SC2=C(C=CC(=C2)F)OC)COCC[Si](C)(C)C | C19H23ClFN3O2SSi
